US08022222B2
Step A: Preparation of 1-acetyl-N-methoxy-N-methylpiperidine-4-carboxamide:
To a solution of 1-acetylpiperidine-4-carboxylic acid (58.50 g, 341.7 mmol) in dichloromethane (700 ml) was added di(1H-imidazol-1-yl)methanone (58.18 g, 358.8 mmol) in portions. The mixture was agitated for two hours and N-methoxymethanamine hydrochloride (35.00 g, 358.8 mmol) was added at once. The mixture was stirred overnight at ambient temperature, and then 4M HCl in dioxane (75 ml) was added slowly. The slurry was agitated for 30 minutes and then filtered. The filtrate was washed twice with sodium bicarbonate solution, dried and concentrated in vacuo to give the desired product (59.10 g, 80.72% yield) as a white solid.

reactant | 1-acetylpiperidine-4-carboxylic acid | 341.7 mmol, 58.50 g | C(C)(=O)N1CCC(CC1)C(=O)O | C8H13NO3
reactant | di(1H-imidazol-1-yl)methanone | 358.8 mmol, 58.18 g | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | N-methoxymethanamine hydrochloride | 358.8 mmol, 35.00 g | Cl.CONC
reactant | HCl | 4M | Cl | ClH
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 1-acetyl-N-methoxy-N-methylpiperidine-4-carboxamide | 59.10 g, 80.72% yield | C(C)(=O)N1CCC(CC1)C(=O)N(C)OC | C10H18N2O3
